US06294558B1
2-Bromo2-(4-bromophenyl)-1-(4-methylthiophenyl)ethanone
To a stirred suspension of 2-(4-bromophenyl)-1-(4-methylthiophenyl)ethanone from step1 (8.4 g, 0.024 mol) in acetic acid (130 mL), bromine (3.8 g, 0.024 mol) in 25% hydrogen bromide-acetic acid solution (50 mL) was added dropwise at room temperature. After stirring for 4 h at room temperature, concentrated gave the yellow solid. The solid was suspended in ether and collected by filtration, washed with ether to give the title compound (7.5 g, 73%).

reactant | 2-(4-bromophenyl)-1-(4-methylthiophenyl)ethanone | BrC1=CC=C(C=C1)CC(=O)C1=CC=C(C=C1)SC | C15H13BrOS
reactant | bromine | 0.024 mol, 3.8 g | BrBr | Br2
solvent | acetic acid | 130 mL | C(C)(=O)O | C2H4O2
solvent | hydrogen bromide acetic acid | 50 mL | Br.C(C)(=O)O
solvent | ether | CCOCC | C4H10O
product | 2-Bromo2-(4-bromophenyl)-1-(4-methylthiophenyl)ethanone | 7.5 g, 73% | BrC(C(=O)C1=CC=C(C=C1)SC)C1=CC=C(C=C1)Br | C15H12Br2OS
